US09260420B2
Synthesis of 7-(4-bromobutoxy)-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one
To a solution (20 ml) of 7-hydroxy-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one (0.4 g) in DMF were added 1,4-dibromobutane (0.75 ml) and potassium carbonate (0.35 g) and the mixture was stirred at 60° C. for 6 hr. After cooling to room temperature, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=100:1→50:1) to give the title compound (0.6 g) as a colorless solid.

reactant | 7-hydroxy-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | 20 ml, 0.4 g | OC1=CC=C2C(CC(NC2=C1)=O)(C)C | C11H13NO2
reactant | 1,4-dibromobutane | 0.75 ml | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-(4-bromobutoxy)-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | 0.6 g | BrCCCCOC1=CC=C2C(CC(NC2=C1)=O)(C)C | C15H20BrNO2
